US07622508B2
b. Preparation of 2-(3-cyclohexylpropylamino)ethanol
To a solution of ethanolamine (0.44 g, 7.1 mmol) in DCM (15 mL) at 0° C. was added a solution of 3-cyclohexylpropionaldehyde (1.0 g, 7.1 mmol) in DCM (10 mL) followed by sodium triacetoxyborohydride (1.67 g, 7.86 mmol). The resulting mixture was warmed to room temperature. After 2.5 hours the desired product was observed by mass spectrometric analysis. The reaction mixture was stirred overnight, then diluted with DCM (50 mL), washed with saturated sodium bicarbonate (2×50 mL), and brine (50 mL), dried over sodium sulfate, filtered, and concentrated to give a clear oil (1.0 g) which was used in the next step without further purification. ((m/z): [M+H]+ calcd for C11H23NO, 186.20; found, 186.0).

reactant | ethanolamine | 7.1 mmol, 0.44 g | C(O)CN | C2H7NO
reactant | 3-cyclohexylpropionaldehyde | 7.1 mmol, 1.0 g | C1(CCCCC1)CCC=O | C9H16O
reactant | sodium triacetoxyborohydride | 7.86 mmol, 1.67 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-cyclohexylpropylamino)ethanol | C1(CCCCC1)CCCNCCO | C11H23NO
